US05342843
1) Methyl 2-mono-n-butylaminothiophene-3-carboxylate [Compound (g-1)]
In the same manner as in Reference Example 1-1), methyl 2-aminothiophene-3-carboxylate [Chem. Ber. 98, 3571 (1965)]was used in place of methyl 3-aminothiophene-2-carboxylate to obtain 8.69 g (40.7%) of Compound (g-1).

reactant | methyl 2-aminothiophene-3-carboxylate | NC=1SC=CC1C(=O)OC | C6H7NO2S
reactant | methyl 3-aminothiophene-2-carboxylate | NC1=C(SC=C1)C(=O)OC | C6H7NO2S
product | Methyl 2-mono-n-butylaminothiophene-3-carboxylate | 8.69 g, 40.7% | C(CCC)NC=1SC=CC1C(=O)OC | C10H15NO2S
